US04446147
6(b) (2-Cyclohexenyl)acetic Acid
100 g of 2-(2-cyclohexenyl)malonic acid diethyl ester and 52 g of potassium hydroxide in 100 ml of water/methanol=1/4 was refluxed overnight. Then the alcohol was withdrawn on a forced circulation evaporator, the residue was diluted with about 200 ml of water and then combined under ice cooling with about 70 ml of concentrated hydrochloric acid to pH 1. The mixture was repeatedly extracted with ether, the combined organic phases were washed with saturated sodium chloride solution and evaporated to dryness. The residue was heated for 4 hours to 130° C. with liberation of CO2 and thereafter distilled under vacuum, thus obtaining 55.5 g, bp1 98°-107° C.

reactant | 2-(2-cyclohexenyl)malonic acid diethyl ester | 100 g | C(C)OC(C(C(=O)OCC)C1C=CCCC1)=O | C13H20O4
reactant | potassium hydroxide | 52 g | [OH-].[K+]
solvent | water methanol | 100 ml | O.CO
product | (2-Cyclohexenyl)acetic Acid | C1(C=CCCC1)CC(=O)O | C8H12O2
